US06538152B1
To a stirred solution of 2-benzyloxy-5-(2-methoxymethoxyethyl)benzoic acid (900 mg) in tetrahydrofuran (25 ml) was added 1,1′-carbonyldiimidazole (507 mg) at room temperature, and the mixture was stirred for 1 hour. To the reaction mixture was added 28% ammonium hydroxide (3 ml), and the resulting mixture was stirred for 30 minutes at room temperature. Water was added to the reaction mixture, and the resulting mixture was extracted with ethyl acetate. The extract was washed with brine and dried over anhydrous magnesium sulfate. After the solvent was removed under reduced pressure, crystallization of the residue from hexane and diethyl ether (1/1) gave 2-benzyloxy-5-(2-methoxymethoxyethyl)benzamide (700 mg).

reactant | 2-benzyloxy-5-(2-methoxymethoxyethyl)benzoic acid | 900 mg | C(C1=CC=CC=C1)OC1=C(C(=O)O)C=C(C=C1)CCOCOC | C18H20O5
reactant | 1,1′-carbonyldiimidazole | 507 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonium hydroxide | 3 ml | [OH-].[NH4+]
reactant | Water | O | H2O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 2-benzyloxy-5-(2-methoxymethoxyethyl)benzamide | 700 mg | C(C1=CC=CC=C1)OC1=C(C(=O)N)C=C(C=C1)CCOCOC | C18H21NO4
